US04943574
A mixture of 7 parts of 5-[1-(1H-imidazol-1-yl)-2-butynyl]-1-methyl-1H-benzotriazole, 0.1 parts of quinoline, 54 parts of ethyl acetate and 32 parts of ethanol was hydrogenated at 931.00 Pa and at room temperature with 0.3 parts of palladium-on-charcoal catalyst 10%. After the calculated amount of hydrogen was taken up, the catalyst was filtered off over diatomaceous earth and the filtrate was evaporated. The residue was purified by column chromatography over silica gel using a mixture of dichloromethane and methanol (95:5 by volume) as eluent. The pure fractions were collected and the eluent was evaporated. The residue was crystallized from a mixture of dichloromethane and 1,1'-oxybisethane. The product was filtered off and dried, yielding 1.4 parts (19.7%) of 5-[1-(1H-imidazol-1-yl)-2-butenyl]-1-methyl-1H-benzotriazole; mp. 104° C. (compound 240).

reactant | 5-[1-(1H-imidazol-1-yl)-2-butynyl]-1-methyl-1H-benzotriazole | N1(C=NC=C1)C(C#CC)C1=CC2=C(N(N=N2)C)C=C1 | C14H13N5
reactant | quinoline | N1=CC=CC2=CC=CC=C12 | C9H7N
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | hydrogen | [H][H] | H2
catalyst | palladium-on-charcoal | [Pd] | Pd
solvent | ethanol | C(C)O | C2H6O
product | 5-[1-(1H-imidazol-1-yl)-2-butenyl]-1-methyl-1H-benzotriazole | 19.7% | N1(C=NC=C1)C(C=CC)C1=CC2=C(N(N=N2)C)C=C1 | C14H15N5
